US03943153
10.8 g. of cis-propenylphosphonic acid is dissolved in 50 ml. of water and the pH of the solution is adjusted to 4.2 by the addition of 2.5 N sodium hydroxide. 13.8 g. of N-bromoacetamide is added and the suspension is stirred at room temperature. The reaction is complete when the N-bromoacetamide is in solution and the mixture is negative to starch-iodide paper. The solution is lyophilized and the residue is triturated several times with chloroform to give sodium (2-hydroxy-1-bromopropyl)-phosphonate.

reactant | cis-propenylphosphonic acid | C(=C/C)/P(O)(O)=O | C3H7O3P
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
reactant | N-bromoacetamide | BrNC(C)=O | C2H4BrNO
solvent | water | O | H2O
product | sodium (2-hydroxy-1-bromopropyl)-phosphonate | OC(C(Br)P([O-])([O-])=O)C.[Na+].[Na+] | InChI=1S/C3H8BrO4P.2Na/c1-2(5)3(4)9(6,7)8;;/h2-3,5H,1H3,(H2,6,7,8);;/q;2*+1/p-2
